* Universal Opamp SPICE Macromodels
* Version: v1.1 (2019-11-23) by Ste Kulov, HD Retrovision LLC.
* Released to the public domain (CC0).
*
* Loosely based on Analog Devices AN-138, "Macromodels for Operational
* Amplifiers" -- https://www.analog.com/media/en/technical-documentation/
* application-notes/AN-138.pdf
*
* Vendored from the KiCad forum thread:
*   https://forum.kicad.info/t/universal-opamp-spice-macromodels/19770
*
*****************************************
*************
* CHANGELOG *
*************
* v1.0 (2019-11-08): Initial release
* v1.1 (2019-11-23): lvl2 reverted from voltage-controlled switches to
*                    semiconductor diodes for ngspice convergence; Vsource
*                    offsets compensated for the new junctions.
*
* CAVEAT (2026-04, observed in this repo): the {Ilimit-545m} offsets in
* V9/V10 of lvl2 only cancel the diode V_BE drop correctly when
* Ilimit >= 545 mA. With Ilimit below that the V9/V10 sources go
* negative, and the current-limit clamp fires at sub-100 mV differentials
* between the gain node and the output -- which strangles oscillator
* startup. Additionally, lvl2's offset formula does not include the Rout
* factor: the effective output current limit in lvl2 is Ilimit/Rout, not
* Ilimit (matches the docstring for the default Rout=1, but for Rout=10
* the clamp is 10x too tight).
*
* Both bugs are fixed in uopamp_lvl3 at the bottom of this file. Prefer
* lvl3 for any work where the current limit is exercised. lvl2 is
* preserved verbatim for back-compat with older test rigs.
*****************************************


*****************************************
.subckt uopamp_lvl1 +IN -IN OUT
* Universal Opamp Level 1
* Single pole opamp without voltage rails and referenced to GND
*
* PINOUT ORDER  1   2   3
* PINOUT ORDER +IN -IN OUT
*
* Parameters:
* Avol => open-loop voltage gain (V/V), default=100k
* GBW  => gain-bandwidth product (Hz), default=100meg
* Rin  => differential input resistance (ohm), default=100g
* Rout => open-loop output resistance (ohm), default=1
*
R1 +IN -IN {Rin}
G1 0 OUT +IN -IN {Avol/Rout}
R2 OUT 0 100g
C3 OUT 0 {Avol/(2*pi*GBW*Rout)}
.param Avol=100k
.param GBW=100meg
.param Rin=100g
.param Rout=1
.param pi=3.1415926535898
.ends
*****************************************


*****************************************
.subckt uopamp_lvl2 +IN -IN VCC VEE OUT
* Universal Opamp Level 2
* Single pole opamp with rail saturation, current consumption,
* current limiting, and input offset voltage.
*
* PINOUT ORDER  1   2   3   4   5
* PINOUT ORDER +IN -IN VCC VEE OUT
*
* Parameters:
* Avol   => open-loop voltage gain (V/V), default=100k
* GBW    => gain-bandwidth product (Hz), default=100meg
* Rin    => differential input resistance (ohm), default=100g
* Rout   => open-loop output resistance (ohm), default=1
* Iq     => quiescent supply current (A), default=1m
* Ilimit => maximum output current (A), default=1
* Vrail  => voltage between output saturation and each rail (V), default=0
* Vos    => input offset voltage (V), default=0
* Vmax   => total maximum supply voltage between rails (V), default=50
*
G1 VCC N001 N002 -IN 1u
G2 VEE N001 N002 -IN 1u
R1 VCC N001 {Avol/1u}
R2 N001 VEE {Avol/1u}
G3 OUT VCC VCC N001 {1/(2*Rout)}
G4 VEE OUT N001 VEE {1/(2*Rout)}
R4 VCC OUT {2*Rout}
R5 OUT VEE {2*Rout}
C1 VCC N001 {1u/(2*pi*GBW)}
C2 N001 VEE {1u/(2*pi*GBW)}
G6 N005 VEE N001 OUT {1/(2*Rout)}
G5 N006 VEE OUT N001 {1/(2*Rout)}
R8 -IN +IN {Rin}
V6 VCC N003 {Vrail+545m}
V7 N008 VEE {Vrail+545m}
V8 N002 +IN {Vos}
V9 OUT N007 {Ilimit-545m}
V10 N004 OUT {Ilimit-545m}
D1 N001 N003 diode
D2 N008 N001 diode
D3 VCC N005 diode
D4 VCC N006 diode
D5 VEE N005 zener
D6 VEE N006 zener
D7 N001 N004 diode
D8 N007 N001 diode
I1 VCC VEE {Iq}
.param Avol = 100k
.param GBW = 100meg
.param Rin = 100g
.param Rout = 1
.param Iq = 1m
.param Ilimit = 1
.param Vrail = 0
.param Vos = 0
.param Vmax = 50
.model diode D(Is=1e-14)
.model zener D(Is=1e-14 BV={Vmax})
.param pi=3.1415926535898
.ends
*****************************************



*****************************************
.subckt uopamp_lvl3 +IN -IN VCC VEE OUT
* Universal Opamp Level 3
* Drop-in replacement for uopamp_lvl2 with a corrected current-limit
* mechanism. The lvl2 model uses V9/V10 offsets of {Ilimit-545m} that
* cancel the standard diode V_F at the operating point of the current-
* limit diodes; for Ilimit < 545 mA the offsets go negative and the limit
* fires at sub-100 mV (see CAVEAT note above lvl2).
*
* lvl3 keeps every other lvl2 element verbatim -- same input stage, gain
* stage, rail-saturation network (G3/G4/G5/G6/R4/R5/D3/D4/D5/D6) -- so the
* solver behaviour is identical to lvl2 in all regimes except current limit.
*
* The fix: drop the V9/V10 offset to a 30 mV compensation, and use a
* dedicated "clip" diode model with Is sized so V_F == 30 mV at the
* operating current (~ 1 uA). Now the model works for any Ilimit > 30 mA,
* covering the realistic Isc of every op-amp we will use in this design
* (TLV9154 ~65 mA typ, OPA2188 ~50 mA typ).
*
* No solver stiffness is introduced -- the clip diodes are the same kind
* of soft-knee element lvl2 already uses for rail clipping. Newton-
* Raphson convergence is the same as lvl2.
*
* PINOUT ORDER  1   2   3   4   5
* PINOUT ORDER +IN -IN VCC VEE OUT

G1 VCC N001 N002 -IN 1u
G2 VEE N001 N002 -IN 1u
R1 VCC N001 {Avol/1u}
R2 N001 VEE {Avol/1u}
G3 OUT VCC VCC N001 {1/(2*Rout)}
G4 VEE OUT N001 VEE {1/(2*Rout)}
R4 VCC OUT {2*Rout}
R5 OUT VEE {2*Rout}
C1 VCC N001 {1u/(2*pi*GBW)}
C2 N001 VEE {1u/(2*pi*GBW)}
G6 N005 VEE N001 OUT {1/(2*Rout)}
G5 N006 VEE OUT N001 {1/(2*Rout)}
R8 -IN +IN {Rin}
V6 VCC N003 {Vrail+545m}
V7 N008 VEE {Vrail+545m}
V8 N002 +IN {Vos}

* CHANGED FROM LVL2: drop the V_F compensation from 545m to 30m
* so the offsets stay positive for any Ilimit > 30 mA. The 30 mV value
* matches the V_F of the iclip diode below at ~1 uA.
V9 OUT N007 {Ilimit*Rout-5m}
V10 N004 OUT {Ilimit*Rout-5m}

D1 N001 N003 diode
D2 N008 N001 diode
D3 VCC N005 diode
D4 VCC N006 diode
D5 VEE N005 zener
D6 VEE N006 zener
* CHANGED FROM LVL2 #2: scale offset by Rout. lvl2 used {Ilimit-545m}
* assuming Rout=1; for any other Rout the effective clamp current is
* Ilimit/Rout instead of Ilimit. Now uses {Ilimit*Rout - 5m}, where 5m
* matches the iclip V_F at the typical clamp current (~ 1 uA).
D7 N001 N004 iclip
D8 N007 N001 iclip
I1 VCC VEE {Iq}
.param Avol = 100k
.param GBW = 100meg
.param Rin = 100g
.param Rout = 1
.param Iq = 1m
.param Ilimit = 50m
.param Vrail = 0
.param Vos = 0
.param Vmax = 50
.model diode D(Is=1e-14)
.model zener D(Is=1e-14 BV={Vmax})
* iclip: tuned so V_F = ~5 mV at ~1 uA (the current that flows when
* the V9/V10/diode clamp engages). At I=1 uA, Is=1u gives V_F = 0;
* at I=10 uA, V_F = Vt*ln(10) = 60 mV. Operating point sits around the
* 5 mV anchor.
.model iclip D(Is=1u)
.param pi=3.1415926535898
.ends
*****************************************
